US08865752B2
Step-1: To a mixture of 4-butylaniline 67 mmol) and KSCN (26 g, 268 mmol) in acetic acid was added Br2 in acetic acid (70 mL) dropwise over 6 min at RT. The mixture was stirred at RT overnight and poured into water (2 L). The precipitate was collected, washed with water and dried to afford 6-butylbenzo[d]thiazol-2-amine. MS (ESI+) m/z 207.20 [M+H]+

reactant | 4-butylaniline | 67 mmol | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | KSCN | 268 mmol, 26 g | C(#N)[S-].[K+]
reactant | Br2 | BrBr | Br2
reactant | water | 2 L | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 6-butylbenzo[d]thiazol-2-amine | C(CCC)C1=CC2=C(N=C(S2)N)C=C1 | C11H14N2S
